US08729263B2
Following standard GENERAL METHOD 1-4 for Suzuki coupling using 4-(2-chloro-5-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrazole (118 mg, 0.35 mmol) and 6-chloro-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (Intermediate 1-1,100 mg, 0.35 mmol) afforded 6-(5-chloro-2-methoxy-4-(1H-pyrazol-4-yl)phenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (138 mg) MS [M+H+]=455.0.

reactant | 4-(2-chloro-5-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrazole | 0.35 mmol, 118 mg | ClC1=C(C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)OC)C=1C=NNC1 | C16H20BClN2O3
reactant | 6-chloro-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 0.35 mmol, 1-1,100 mg | ClC1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C | C14H23ClN4
product | 6-(5-chloro-2-methoxy-4-(1H-pyrazol-4-yl)phenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 138 mg | ClC=1C(=CC(=C(C1)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C)OC)C=1C=NNC1 | C24H31ClN6O
